US07335658B2
3-METHOXY-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}PROPIONAMIDE
Following the procedure of Example 2, making variations only as required to use 3-methoxypropionic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (11% yield). 1H NMR (300 MHz, CDCl3) δ 9.44, 8.31, 7.74, 7.63, 7.55, 7.36, 7.02, 4.02-3.98, 3.94-3.89, 3.73, 3.70-3.61, 3.57-3.54, 3.43, 3.33-3.31, 2.73. MS (ES+) m/z 438.1 (M+1).

reactant | 3-methoxypropionic acid | COCCC(=O)O | C4H8O3
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 3-METHOXY-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}PROPIONAMIDE | COCCC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C20H22F3N5O3
